US03959364
1-Bromo-4-cyclohexylbenzene
1-Bromo-4-(1-cyclohexen-1-yl)benzene was hydrogenated in an ether ethanol solvent containing 50% HBr using a platinum oxide catalyst to give the desired product, b.p. 121°-126°C/3 mm.

reactant | 1-Bromo-4-(1-cyclohexen-1-yl)benzene | BrC1=CC=C(C=C1)C1=CCCCC1 | C12H13Br
reactant | HBr | Br | BrH
solvent | ether ethanol | CCOCC.C(C)O
catalyst | platinum oxide | [Pt]=O
product | 1-Bromo-4-cyclohexylbenzene | BrC1=CC=C(C=C1)C1CCCCC1 | C12H15Br
